US07816379B2
In 14 ml of 1-methyl-2-pyrrolidon was dissolved 1.8 g of (S)-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide. The solution was added 1.03 g of 2-(2-oxo-4-hydroxymethylpyrrolidin-1-yl)-5-bromopyridine, 0.55 g of lithium chloride and 0.15 g of dichlorobistriphenylphosphine palladium(II) at room temperature and then stirred at the temperature of 110° C. for 2 hours. The reaction mixture was added with water and extracted with ethyl acetate. After being washed with brine, the organic layer, thus separated, was dehydrated, filtered, concentrated in vacuo and purified by column chromatography thereby to obtain (S)-3-(4-(2-(2-oxo-4-hydroxymethylpyrrolidin-1-yl)pyridin-5-yl)-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide 410 mg. Yield 21%.

reactant | (S)-3-(4-trimethylstannyl-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide | 1.8 g | C[Sn](C1=C(C=C(C=C1)N1CO[C@H](C1)CC(C(=O)N)=O)F)(C)C
reactant | 2-(2-oxo-4-hydroxymethylpyrrolidin-1-yl)-5-bromopyridine | 1.03 g | O=C1N(CC(C1)CO)C1=NC=C(C=C1)Br | C10H11BrN2O2
reactant | lithium chloride | 0.55 g | [Cl-].[Li+]
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidon | 14 ml | CN1C(CCC1)=O | C5H9NO
product | (S)-3-(4-(2-(2-oxo-4-hydroxymethylpyrrolidin-1-yl)pyridin-5-yl)-3-fluorophenyl)-2-oxo-5-oxazolidinylmethyl acetamide | 410 mg, Yield 21% | O=C1N(CC(C1)CO)C1=NC=C(C=C1)C1=C(C=C(C=C1)N1CO[C@H](C1)CC(C(=O)N)=O)F | C22H23FN4O5
